Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Codeine / Nor-QD
 
Attending: ___.
 
Chief Complaint:
abnormal uterine bleeding, stress urinary incontinence
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingectomy, 
suburethral sling, cystoscopy

 
History of Present Illness:
This is a ___ year old female here for surgical consultation. She 
reported  experiencing irregular menstrual cycles for more than 
___ year. Reports she has heavy menstrual bleeding lasting for ___ 
weeks per month, often with blood clots. Also experiencing hot 
flashes and night sweats. Denies soaking > 1 pad per hr however 
is anemic and has improved on iron recently.  Denies sexual 
activity x many years. Denies dizziness, SOB or CP. 

Also complaining of incontinence with coughing, sneezing, 
pressure and nocturia. Denies dysuria, hematuria, vaginal 
discharge, fevers, or abdominal pain. Has been having this 
symptoms for a long time but she is now ready to address and 
will be having a sling w Dr ___.

H:H 8.9/31.4<413; started on iron since ___ 
H:H 10.6/36.8<320: on iron daily

BX returned: 1. Endometrium, biopsy:
- Proliferative endometrium.

 
Past Medical History:
OB Hx: G2  P2: Csection

Gyn Hx:
Menarche: 10
Interval: as above
Lenght: 14 days
Flow: heavy
Dysmenorrhea: Denies
Date of last pap: ___   Result: normal
H/O Abnormal ___ - colposcopy normal
Date of last mammogram: ___             Result: normal
H/O breast disease or surgery: ___ lump removed with atypical
ductal hyperplasia now yearly mammogram follow up.
H/O fibroids: yes
H/O Ovarian cysts: denies
Sexual Partner: None
H/O STD's: Denies
Sexual/Domestic abuse: Denies
Birth Control Method: Not currently sexually active

Past Medical History:
FIBROADENOMA  
HYPERTENSION                                                    
OBESITY  
___ DUCTAL HYPERPLAIA OF BREASTS                                  


Past Surgical History:
 ___ D&C
 Breast lump
 Foot surgery
 Hscope D&C
 Csection 

 
Social History:
___
Family History:
Family History:
Diabetes: Denies
CAD: Mother 
HTN: Mother
___: Mother
___ CA: ___
Gyn CA: Denies
Other CA: Denies 
Osteoporosis: Denies

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incisions 
c/d/i
Ext: no TTP
 
Pertinent Results:
N/A
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing total laparoscopic hysterectomy, 
bilateral salpingectomy, suburethral sling, and cystoscopy for 
symptomatic fibroid uterus and stress urinary incontinence. 
Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and IV 
toradol.  On post-operative day 1, her urine output was adequate 
so her bladder was back filled 300 cc's.  Foley catheter was 
removed, and she pass her trial of void (voided 210 cc's within 
30 minutes).  Her diet was advanced without difficulty, and she 
was transitioned to PO Tylenol, ibuprofen, and oxycodone.

She was continued on her home atenolol for her hypertension.  
Hydrochlorothiazide was held post operatively with plans to 
restart as an outpatient.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
atenolol 50', hctz 25', vit c, iron

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
per day Disp #*60 Capsule Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*40 Tablet Refills:*0 
5.  Atenolol 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic fibroid uterus, stress urinary incontinence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___